US05442070
To 520 cm3 of sulphuric acid, stirred and cooled to 0° C., 60 cm3 of fuming nitric acid are added in the course of 30 minutes. 100 g of 3,4-difluorobenzaldehyde are added in the course of 30 minutes at approximately 0° C. to the solution obtained. The temperature is allowed to rise to approximately 20° C. and the mixture is stirred for a further 3 hours at this temperature. After cooling to approximately 5° C., the reaction mixture is introduced in the course of 30 minutes with vigorous stirring into 1,200 g of crushed ice. The temperature is allowed to rise to approximately 20° C. and the mixture is extracted with twice 600 cm3 of toluene. The combined organic extracts are washed with 3 times 1,000 cm3 of water and concentrated under reduced pressure (20 kPa) to 50° C. 113 g of 3,4 -difluoro-6-nitrobenzaldehyde are obtained in the form of a brown oil, which is used in the subsequent syntheses without further treatment. A purified sample of 3,4-difluoro-6-nitrobenzaldehyde gives the following characteristics:

reactant | sulphuric acid | 520 cm3 | S(O)(O)(=O)=O | H2O4S
reactant | 3,4-difluorobenzaldehyde | 100 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | nitric acid | 60 cm3 | [N+](=O)(O)[O-] | HNO3
product | 3,4 -difluoro-6-nitrobenzaldehyde | 113 g | FC=1C=C(C=O)C(=CC1F)[N+](=O)[O-] | C7H3F2NO3
